US08431569B2
Step 5. 1-{[(1R)-1-Cyclopropyl-2,2,2-trifluoroethyl]amino}-7-(1H-1,2,3-triazol-4-yl)-5H-pyrido[4,3-b]indole-4-carboxamide
1-{[(1R)-1-Cyclopropyl-2,2,2-trifluoroethyl]amino}-7-ethynyl-5H-pyrido[4,3-b]indole-4-carboxamide (0.13 g, 0.36 mmol) in TMS-azide (4 mL, 30 mmol) was heated to 150° C. for 18 h, cooled to room temperature, concentrated, and purified by flash chromatography to afford the title compound. 1H NMR (600 MHz, CD3SOCD3) δ 11.73 (s, 1H); 8.50 (d, 1H); 8.48 (s, 1H); 8.30 (br s, 1H); 8.22 (s, 1H); 7.93 (br s, 1H); 7.72 (d, 1H); 7.26 (br s, 1H); 6.98 (d, 1H); 4.85 (m, 1H); 1.58 (m, 1H); 0.72 (m, 1H); 0.62 (m, 1H); 0.51 (m, 1H); 0.31 (m, 1H). LRMS (APCI) calc'd for (C19H16F3N7O) [M+H]+, 416.1. found 416.1.

reactant | 1-{[(1R)-1-Cyclopropyl-2,2,2-trifluoroethyl]amino}-7-ethynyl-5H-pyrido[4,3-b]indole-4-carboxamide | 0.36 mmol, 0.13 g | C1(CC1)[C@H](C(F)(F)F)NC1=NC=C(C=2NC=3C=C(C=CC3C21)C#C)C(=O)N | C19H15F3N4O
reactant | TMS-azide | 30 mmol, 4 mL | [Si](C)(C)(C)N=[N+]=[N-] | C3H9N3Si
product | 1-{[(1R)-1-Cyclopropyl-2,2,2-trifluoroethyl]amino}-7-(1H-1,2,3-triazol-4-yl)-5H-pyrido[4,3-b]indole-4-carboxamide | C1(CC1)[C@H](C(F)(F)F)NC1=NC=C(C=2NC=3C=C(C=CC3C21)C=2N=NNC2)C(=O)N | C19H16F3N7O
